US09278950B2
Step 4. 3-Amino-N-{4-[(3S)-3-aminopiperidin-1-yl]pyridin-3-yl}-7-bromoquinoline-2-carboxamide
To a mixture of 3-amino-7-bromoquinoline-2-carboxylic acid (27.4 mg, 0.103 mmol), tert-butyl [(3S)-1-(3-aminopyridin-4-yl)piperidin-3-yl]carbamate (31.4 mg, 0.107 mmol) and HATU (78.2 mg, 0.206 mmol), DMF (1.00 mL) was added, followed by DIPEA (83.6 mg, 0.647 mmol). The mixture was stirred at room temperature. After 3 h, the reaction mixture was concentrated under reduced pressure. The resulting residue was dissolved in DCM (2.0 mL); then TFA (1.0 mL) was added. The mixture was stirred at room temperature for 30 min., and then concentrated under reduced pressure. The residue was purified using RP-HPLC (XBridge™ C18 column, eluting with a gradient of MeCN/water containing 0.1% NH4OH, at a flow rate of 30 mL/min.) to give the title compound as a yellow solid (10.1 mg, 22%). LCMS calc. for C20H22BrN6O (M+H)+: m/z=441.1. found 441.1.

reactant | 3-amino-7-bromoquinoline-2-carboxylic acid | 0.103 mmol, 27.4 mg | NC=1C(=NC2=CC(=CC=C2C1)Br)C(=O)O | C10H7BrN2O2
reactant | tert-butyl [(3S)-1-(3-aminopyridin-4-yl)piperidin-3-yl]carbamate | 0.107 mmol, 31.4 mg | NC=1C=NC=CC1N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C15H24N4O2
reactant | HATU | 0.206 mmol, 78.2 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.647 mmol, 83.6 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.00 mL | CN(C)C=O | C3H7NO
product | 3-Amino-N-{4-[(3S)-3-aminopiperidin-1-yl]pyridin-3-yl}-7-bromoquinoline-2-carboxamide | 10.1 mg, 22% | NC=1C(=NC2=CC(=CC=C2C1)Br)C(=O)NC=1C=NC=CC1N1C[C@H](CCC1)N | C20H21BrN6O
